US04900752
7,8-dihydro-6,6-dimethyl-7hydroxy-8-amino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole
0.82 g of 7,8-dihydro-6,6-dimethyl-7,8-epoxy-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole (3.8 m mols) dissolved in 25 ml of 16.7% NH3 --EtOH solution was reacted in a pressure glass tube at 60° C. for 48 hours. The reaction solution was distilled off and the residue was subjected to a silica gel column chromatography using a developing solvent of ethyl acetate-methanol (5:1 (v/v)) to obtain 0.77 g (yield: 87%) of the intended compound as a brown solid. A part of the obtained compound was recrystallized from ethanol to obtain pure intended compound as colorless crystals.

reactant | 7,8-dihydro-6,6-dimethyl-7,8-epoxy-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | 0.82 g | CC1(C2C(C=3C(=CC=4C(=NON4)C3)O1)O2)C | C11H10N2O3
reactant | EtOH | CCO | C2H6O
reactant | NH3 | 25 ml | N | H3N
product | 7,8-dihydro-6,6-dimethyl-7hydroxy-8-amino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | 0.77 g, yield: 87% | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)N)O)C | C11H13N3O3
